US09376441B2
In a 48 mL sealed tube were placed 1-bromo-4-iodobenzene (1498.3 mg, 5.30 mmol), tert-butyl 3,6-diazabicyclo[3.1.1]heptane-6-carboxylate (1000.0 mg, 5.04 mmol), Pd2(dba)3 (138.6 mg, 0.15 mmol), XantPhos (262.7 mg, 0.45 mmol), and sodium t-butoxide (1454.2 mg, 15.13 mmol) in toluene (36 ml). The reaction mixture was stirred at 60° C. for 3 h. Then it was cooled to room temperature. Then it was quenched with water and the organic layers were extracted with EtOAc (3×10 mL). The combined organic layers were washed with water (2×10 mL) and brine (1×10 mL), dried (Na2SO4), concentrated, and purified by flash chromatography (100% Hexane to 100% EtOAc) to give 500.0 mg (28%) of tert-butyl 3-(4-bromophenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate.

reactant | 1-bromo-4-iodobenzene | 5.30 mmol, 1498.3 mg | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | tert-butyl 3,6-diazabicyclo[3.1.1]heptane-6-carboxylate | 5.04 mmol, 1000.0 mg | C12CNCC(N1C(=O)OC(C)(C)C)C2 | C10H18N2O2
reactant | XantPhos | 0.45 mmol, 262.7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium t-butoxide | 15.13 mmol, 1454.2 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 36 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.15 mmol, 138.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 3-(4-bromophenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate | 500.0 mg, 28% | BrC1=CC=C(C=C1)N1CC2N(C(C1)C2)C(=O)OC(C)(C)C | C16H21BrN2O2
